Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I'm tired of life and I slit my wrist."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This patient is a ___ yo female with no known past psychiatric 
history who presented to the ED s/p suicide attempt in which she 
cut both her wrists with scissors at her aunts home, and then 
attempted to drink bleach before her family intervened and 
stopped her.  Per family, the acute stressor may have been that 
her family and her had planned to go to the hospital the 
following day to seek medical advice regarding her change in 
thought process and behavior over the past year. Patient 
describes low self esteem and poor body image since high school, 
has no friends other than first relatives, and spends her days 
at home (has not had full time job since ___. Over the past 
year, patient has noticed that people comment on her body image 
and say she is a man whenever she is out in public (of note, she 
has had 2 cosmetic surgeries on her nose and jaw and still feels 
unsatisfied with the results). This has caused her to isolate 
further. She then reports that more recently, her upstairs 
neighbor has starting posting information online and playing it 
through the radio which states that she is a transvestite. She 
also believes that this woman has placed a video camera in her 
home to monitor the patient. Patient reports poor sleep and poor 
appetite over this past month in addition to this depressed mood 
and isolation. She says that spending her days in isolation, 
unable to leave the house because everyone thinks that she is a 
transvestite is a "bleak existance" and that she wants help so 
that she can be less sensitive to their comments. She continues 
to endorse depressed mood on admission, but denies current 
thoughts of suicide, self harm, or harm towards others. 
 
Past Medical History:
s/p reconstructive jaw surgery ___ at ___
hirsuitism, s/p ___ surg
frequent headaches and/or migraines 
 
Social History:
___
Family History:
Dad committed suicide at age ___ (pt does not know this, per 
mother), and was paranoid before death but no formal diagnosis. 
Great maternal aunt with schizophrenia. Maternal first cousin 
with TBI, "mental problems" and polysubstance abuse. Maternal 
uncle with PTSD. 
 
Physical Exam:
VS: T NR BP 110/70 P 77 RR 16 O2 100% RA
GENERAL:  Thin female in no apparent distress, seated with arms
crossed in chair, making poor eye contact, dressed in hospital
jonny. Alert and oriented x3.  Interactive and appropriate.
Wrists wrapped with gauze. 
HEENT:  Normocephalic, atraumatic.  Pupils equal, round and
reactive to light.  Oropharynx clear. Some patchy smoothness on
tongue and lips appear cracked. 
NECK:  Soft, supple, no lymphadenopathy.
CHEST:  Clear to auscultation bilaterally, no crackles, no
wheezing.
HEART:  Regular rate and rhythm, S1, S2 normal, no murmurs.
ABDOMEN:  Soft, nontender, nondistended, no rebound or guarding.
EXTREMITIES:  Full range of motion of bilateral upper
extremities, no pain on range of motion of extremities except
some pain with wrist movement due to recently sutured
lacerations.  Wrists currently wrapped in gauze. No lower
extremity edema. 
NEUROLOGIC:  No focal deficits.  Ambulatory with normal gait. 
Cranial nerves II through XII intact, ___ strength intact and
equal on bilateral upper and lower extremities at all joints
grossly. Reflexes 2 on upper and lower extremities, equal
bilaterally. 
SKIN:  No bruising or rashes. Patch of dry, scaly skin noted on
left temple region. Dark skin discoloration present on hands. 

 
Pertinent Results:
___ 06:15AM BLOOD VitB12-344 Folate-11.9
___ 06:30AM BLOOD ___
___ 06:30AM BLOOD Glucose-82 UreaN-15 Creat-0.8 Na-139 
K-4.6 Cl-101 HCO3-25 AnGap-18
___ 06:30AM BLOOD Calcium-9.2 Phos-4.6* Mg-2.2
___ 05:55AM BLOOD Glucose-102* UreaN-8 Creat-0.9 Na-136 
K-4.3 Cl-98 HCO3-28 AnGap-14
___ 06:50AM BLOOD Glucose-127* UreaN-11 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-30 AnGap-13
 
Brief Hospital Course:
HOSPITAL COURSE TEMPLATE

1.Legal: ___
2.Medical: 
-Patient had elevated prolactin at 150. This was after recieving 
several doses of risperdal. As antipsychotics can increase the 
level of prolactin within a few hours of admission, this was not 
worked up further. This should be followed up by pt's outpatient 
PCP. 
-As patient had reduced food intake prior to and during 
hospitalization, a nutrition consult was obtained. It was 
recomended that patient consume one Ensure supplement shake with 
each meal, which patient did. Daily Chem 10 was obtained for the 
first 4 days of hospitalization and again on ___ to ensure 
that there were no electrolyte abnormalities, which there were 
not. B12 and folate levels were ordered and were normal. Weight 
was obtained on admission (108 lbs) and on ___ (110 lbs) to 
ensure patient was not losing weight.  Patient will be 
encouraged on discharge to continue eating three meals per day, 
with protein in each meal, and to drink 1 Ensure with each meal. 

-Patient had stable, asymptomatic tachycardia to the 120s during 
first several days of admission. EKG on admission was normal. 
The tachycardia improved and patient's heart rate was 
consistently high ___, low 100s for several days before 
discharge. This tachycardia was most likely anxiety related. PCP 
___ be notified of this in case of desire for potential 
outpatient work up.  
Patient did not have a PCP on admission. She not recieved 
preventative care since ___. She has been set up with a PCP on 
discharge so that her preventative health care needs will be 
addressed. 

3.Psychiatric

Extensive time was spent discussing the patient’s diagnosis and 
psychopharmacology issues.

Risperdal was started to treat pscyhosis. This medication was 
well-tolerated, and patient's paranoia and delusional ideas of 
reference largely resolved on a 4 mg daily dose. When she was 
admitted, she was endorsing ideas of reference and generalized 
paranoia, including paranoia that staff and patients on the unit 
were saying she was a man. By discharge, patient denied these 
thoughts, felt that people on the unit were friendly, and felt 
that her neighbor was no longer sending messages about her via 
various media outlets. She was also perseverative on her facial 
hair and jaw structure on admission. By discharge ,these issues 
were not brought up by her at all in conversation, and she was 
able to attend coping skills group.

She was also started on citalopram 40 mg daily for depression. 
This medication was also well-tolerated. On presentation after 
ED presentation s/p SA, patient was denying suicidality but 
continued to endorse depression, hopelessness, decreased 
concentration, and anergia. By discharge, she reported being 
hopeful about the future, was able to concentrate and read books 
she enjoyed, and reported feeling more energetic. On the day of 
discharge, she denied any thoughts of suicidality, denied a 
suicide plan, and denied desire to commit suicide. She cited the 
desire to never put her mother through that emotional pain as 
her protective factor. She also said that if she ever felt as 
bad as she did when she cut her wrists, she would now know that 
she could come to the emergency department or talk to family or 
outpatient treaters. 

She was initially placed on lorazepam 1 mg PO TID PRN 
anxiety/insomnia, however, she was noted to be sedated on this 
medication, so it was reduced to 1 mg PO QHS standing. 
Eventually, this was discontinued and replaced by remeron 30 mg 
PO QHS, to target patient's insomnia, decreased appetite, and 
depression. She tolerated this medication well and slept well at 
night. Her appetite remained low, as she drank ensures three 
times daily but ate minimal solid food. She did not lose weight 
during admission. Her weight should be monitored by her 
outpatient PCP. 

Collateral Information: Spoke with pt's mother at length, and 
had family meetings with patient's mother as well as aunt and 
uncle. 

At time of discharge, pt will be attending a partial hospital 
and this partial hospital will be setting her up with an 
outpatient psychiatrist. The discharge summary including 
hospital course and discharge disposition will be faxed to this 
partial hospital. 

4.Substance Abuse: No acute or chronic issues

5.Social/Milieu:

Pt  was encouraged to participate in unit’s 
groups/milieu/therapy opportunities.  
Usage of coping skills and mindfulness/relaxation methods were 
encouraged.
Therapy addressed family/social/work/housing issues.  Patient 
initially participated in groups, however, she began isolated 
approxmiately 4 days into her hospitalization. Extra 
encouragement to participate and potential benefits to group 
participation including improved coping skills and mindfulness 
were given to patient. She began attending groups again on 
___ and continued to express that these were helpful in 
teaching coping skills.
Patient and family were involved in family meeting focused on 
psychoeducation and discharge planning.

6.Risk Assessment: 
This patient has some chronic risk of self harm given recent 
impulsive suicide attempt, few emotional supports, and no 
established pattern of help seeking (given the fact that this 
was first episode of self harm). Her recent, and only, suicide 
attempt, occured in the context of severe untreated depression 
and psychosis. Patient is no longer psychotic, has improved 
mood, and has many protective factors against repeat self harm 
such as supportive family, late onset of psychosis, no substance 
use, only one suicide attempt, mediation compliance, and 
establishment of outpatient treaters. She is currently in good 
behavioral control, denies any thoughts of self harm, and is 
future oriented. Therefore, she is not at any significant 
elevated acute risk at this time to warrant inpatient 
hospitalization. 

7.Disposition: 
Has intake scheduled for ___ on ___. 
Has outpatient therapist appointment scheduled for ___. 
 
Medications on Admission:
None
 
Discharge Medications:
1. Citalopram 40 mg PO DAILY QAM 
RX *citalopram 40 mg 1 tablet(s) by mouth Daily in the morning 
Disp #*30 Tablet Refills:*0
2. Risperidone 4 mg PO HS 
RX *risperidone 4 mg 1 tablet(s) by mouth QHS (at bedtime) Disp 
#*30 Tablet Refills:*0
3. Mirtazapine 15 mg PO HS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth QHS (at bedtime) Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Psychosis NOS,  r/o MDD with psychotic features, r/o 
schizoaffective disorder, r/o body dysmorphic disorder
Axis II: r/o schizoid personality disorder     
Axis III: none
Axis IV: few social supports, isolation, paranoia
Axis V:40

 
Discharge Condition:
Stable
Ambulatory

Appearance: Biracial female who appears younger than stated age,
dressed in oversized gray sweatshirt and sweatpants, with
traditional glasses, hair tied back in pony tail. Bangs freshly
curled. Appears freshly showered.
___: good eye contact, no notable PMA/PMR, no 
adventitious movements. 
Speech: decreased volume. normal speed and prosody.  
Mood:  'happy to be going home'
Affect: slightly anxious, euthymic, restricted, stable, 
congruent
___ Process: linear, logical 
___ Denies 
SI/HI.
Denies paranoia or ideas of reference. Future oriented. 
Insight/Judgment: insight fair, judgement fair 
___ Exam: Alert/Ox3,
memory/registration/recall/attention grossly intact

 
Discharge Instructions:
During your admission at ___, you were diagnosed with 
psychosis and treated included medication with Risperdol.
Please follow up with all outpatient appointments as listed.
Please continue all medications as directed.
Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.
Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you and we wish you the 
best of health.
If you need to talk to a ___ Staff Member regarding issues of 
your hospitalization, please call ___

 
Followup Instructions:
___